* Z:\mnt\design.r\spice\examples\ADP7158-1.2.asc
V1 IN 0 2.4
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
XU1 OUT MP_01 OUT N002 N001 N003 N003 N004 IN 0 ADP7158_9
Rload OUT 0 1.2
.tran 5m startup
.lib ADP7158_9.sub
.backanno
.end
